US05866572
2-(2-Thienyl)acetyl chloride (16 g) was added slowly to a stirred mixture of morpholine (17.5 ml) and methylene chloride (150 ml). A further portion (5 ml) of morpholine was added and the mixture was stirred at ambient temperature for 4 hours. The reaction mixture was washed in turn with 2M aqueous hydrochloric acid, a saturated aqueous sodium bicarbonate solution and brine. The organic phase was dried and evaporated. The residue was triturated under a mixture of hexane and diethyl ether to give N-[2-(2-thienyl)acetyl]morpholine (20.9 g).

reactant | 2-(2-Thienyl)acetyl chloride | 16 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | morpholine | 17.5 ml | N1CCOCC1 | C4H9NO
reactant | morpholine | 5 ml | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(2-thienyl)acetyl]morpholine | 20.9 g | S1C(=CC=C1)CC(=O)N1CCOCC1 | C10H13NO2S
